US05405979
17,17-bis-(ethylenedioxy)-5-estren-11-one is dissolved in 350 ml of absolute methylene chloride and mixed under protective gas with 18 ml of 2,6-di-tert-butyl pyridine After cooling of this solution to 0° C., 12.9 ml (76.8 mmol) of trifluoromethanesulfonic acid anhydride is slowly instilled. Then, the reaction mixture is stirred for 20 more hours at room temperature. For working up, it is poured on saturated sodium bicarbonate solution, the organic phase is separated and the aqueous phase is subsequently extracted with methylene chloride. The combined organic phases are washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. After chromatography of the crude product on silica gel with a mixture of ethyl acetate/hexane, besides 16.4 ml of 2,6-di-tert-butyl pyridine and 5.1 g of 3,3;17,17-bis-(ethylenedioxy)-5-estren-11-one, 27 g of 3,3;17,17-bis-(ethylenedioxy)-11-trifluoromethylsulfonyloxy-5,9(11)-estradiene is obtained as white foam.

reactant | 17,17-bis-(ethylenedioxy)-5-estren-11-one | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3[C@H]1C(C4)=O | C22H30O5
reactant | 2,6-di-tert-butyl pyridine | 18 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | trifluoromethanesulfonic acid anhydride | 76.8 mmol, 12.9 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 17,17-bis-(ethylenedioxy)-11-trifluoromethylsulfonyloxy-5,9(11)-estradiene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3C1=C(C4)OS(=O)(=O)C(F)(F)F | C23H29F3O7S
